US08012606B2
To a mixture of 900 ml of toluene and 900 ml of THF were added 50.0 g (0.233 mole) of 2,7-diaminodibenzodioxin and 55.3 g (0.699 mole) of pyridine and to the resulting mixture was added 59.5 g (0.583 mole) of acetic anhydride in drops over a period of 10 minutes at room temperature with stirring. After the dropwise addition, the mixture was stirred overnight and a precipitate was recovered by filtration. The precipitate was reslurried with toluene (250 mix 2) and dried under reduced pressure to give 57.0 g (0.191 mole, 82.0% yield) of 2,7-bis(acetylamino)dibenzodioxin. The product showed a purity of 99.3 area % (HPLC, 254 nm).

reactant | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2,7-diaminodibenzodioxin | 0.233 mole, 50.0 g | NC1=CC2=C(OC3=C(O2)C=CC(=C3)N)C=C1 | C12H10N2O2
reactant | pyridine | 0.699 mole, 55.3 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.583 mole, 59.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | 900 ml | C1CCOC1 | C4H8O
product | 2,7-bis(acetylamino)dibenzodioxin | 0.191 mole, 57.0 g, 82.0% yield | C(C)(=O)NC1=CC2=C(OC3=C(O2)C=CC(=C3)NC(C)=O)C=C1 | C16H14N2O4
